US08754079B2
51.3 4-[4-Fluoro-2-((1S,2S)-2-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
A mixture of 0.100 g 4-[4-fluoro-2-((1S,2S)-2-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (cpd. 51.2), 2.5 ml ammonia in dioxane (0.5M), 0.109 g HATU and 0.046 ml DIPEA in 2 ml DMF was stirred at rt overnight. The reaction mixture was diluted with water, stirred and filtered. The filtercake was dried.

reactant | 4-[4-fluoro-2-((1S,2S)-2-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.100 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2[C@H](CCCC2)O | C20H20FN3O4S
reactant | ammonia | 2.5 ml | N | H3N
reactant | HATU | 0.109 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.046 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 0.5M | O1CCOCC1 | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[4-Fluoro-2-((1S,2S)-2-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@@H]2[C@H](CCCC2)O | C20H21FN4O3S
